US08975254B2
N—((S)-1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)thiazole-4-carboxamide
Sodium borohydride (0.056 g, 1.477 mmol) was added into a flask and the atmosphere was replaced with nitrogen. Dry ethanol was added and the reaction mixture was cooled to 0° C. (S)-2-acetyl-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide (0.316 g, 0.738 mmol) was added and the reaction mixture was warmed slowly to RT while stirring overnight. The crude product was cooled to 0° C., a few drops of water was added, the pH was adjusted below 7 and the mixture was evaporated. 5% of DCM/MeOH was added and the crude product was washed with 1M NaHCO3, water and dried. Yield 68.1%. 1H-NMR (400 MHz; DMSO-d6): δ 1.13 (d, 3H), 1.40 (dd, 3H), 2.52 (s, 3H), 4.37 (m, 2H), 4.48 (m, 1H), 4.92 (m, 1H), 6.24 (t, 1H), 6.62 (d, 1H), 7.63 (d, 1H), 7.82 (d, 1H), 7.87 (dd, 1H), 8.10 (s, 1H), 8.37 (dd, 1H).

reactant | Sodium borohydride | 1.477 mmol, 0.056 g | [BH4-].[Na+]
reactant | (S)-2-acetyl-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | 0.738 mmol, 0.316 g | C(C)(=O)C=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C)C | C20H18ClN5O2S
catalyst | water | a few drops | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N—((S)-1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1-hydroxyethyl)thiazole-4-carboxamide | Yield 68.1% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)C(C)O)C | C20H20ClN5O2S
